US08207164B2
a) 5-Difluoromethoxy-3-methyl-pyridine-2-carbonitrile
A solution of 5-hydroxy-3-methyl-pyridine-2-carbonitrile (CAS registry 228867-86-5) (228 mg, 1.70 mmol), sodium chlorodifluoroacetate (CAS registry 1895-39-2) (518 mg, 3.40 mmol) and K2CO3 (705 mg, 5.10 mmol) in DMF (7 ml) was stirred for 0.5 h at 100° C. The reaction mixture was diluted with EtOAc and washed with saturated aqueous NH4Cl soln. and brine. The aqueous layers were reextracted with EtOAc, the combined organic layers dried over Na2SO4, filtrated and the filtrate was concentrated. The title compound was obtained as a colourless oil after flash chromatography on silica gel (cyclohexane/EtOAc gradient 0-3 min 95:5, 3-35 min 95:5 to 60:40).

reactant | 5-hydroxy-3-methyl-pyridine-2-carbonitrile | 1.70 mmol, 228 mg | OC=1C=C(C(=NC1)C#N)C | C7H6N2O
reactant | sodium chlorodifluoroacetate | 3.40 mmol, 518 mg | ClC(C(=O)[O-])(F)F.[Na+]
reactant | K2CO3 | 5.10 mmol, 705 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Difluoromethoxy-3-methyl-pyridine-2-carbonitrile | FC(OC=1C=C(C(=NC1)C#N)C)F | C8H6F2N2O
